US04206225
Ethyl 3-(2,5-Dibenzyloxyphenyl)crotonate (Wittig Reaction)
In like manner, ethyl 3-(2,5-dimethoxyphenyl)crotonate is prepared from 2,5-dimethoxyacetophenone (51.7 g.) and carbethoxymethylene triphenylphosphorane (200 g.).

reactant | ethyl 3-(2,5-dimethoxyphenyl)crotonate | COC1=C(C=C(C=C1)OC)\C(=C/C(=O)OCC)\C | C14H18O4
reactant | 2,5-dimethoxyacetophenone | 51.7 g | CC(=O)C1=C(C=CC(=C1)OC)OC | C10H12O3
reactant | carbethoxymethylene triphenylphosphorane | 200 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
product | Ethyl 3-(2,5-Dibenzyloxyphenyl)crotonate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)\C(=C/C(=O)OCC)\C | C26H26O4
